US06624294B2
5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)adenosine
5′-O-t-Butyldiphenylsilyl-2′-O-(hydroxyethyl)-adenosine is treated with methyliodide as per the procedure of Example 24 to give the title compound.

reactant | 5′-O-t-Butyldiphenylsilyl-2′-O-(hydroxyethyl)-adenosine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)OCCO)O | C28H35N5O5Si
reactant | methyliodide | CI | CH3I
product | 5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)adenosine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)OCCOC)O | C29H37N5O5Si
